US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-3-hydroxypyridine-2-carboxamide (Compound No. 27)
Using 3-hydroxypyridine-2-carboxylic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the example 24 gave the title compound.

reactant | 3-hydroxypyridine-2-carboxylic acid | OC=1C(=NC=CC1)C(=O)O | C6H5NO3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-3-hydroxypyridine-2-carboxamide | Yield: 45.0% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1=NC=CC=C1O)(F)F | C14H8F6N2O2
